US07115611B2
C] 2-Methyl-2-(3-methylaminomethyl-phenoxy)-propionic acid ethyl ester
In analogy to the procedures described in example 5D], 5E] and 5F], 2-(3-aminomethyl-phenoxy)-2-methyl-propionic acid ethyl ester was converted into the corresponding tert-butoxycarbonylamino derivative by treatment with di-tert-butyl dicarbonate and sodium hydrogen carbonate in dioxane/water at r.t., methylated at N and deprotected again to yield the title compound as a yellow oil.

reactant | 2-(3-aminomethyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=CC=C1)CN)=O | C13H19NO3
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dioxane water | O1CCOCC1.O
product | 2-Methyl-2-(3-methylaminomethyl-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=CC(=CC=C1)CNC)C)=O | C14H21NO3
